US04696920
A solution of sodium dipentyl phosphite was prepared by adding 80 g (0.36 mol) di n-pentyl phosphite to a suspension of 8.6 g (0.29 mol) 80% sodium hydride in 150 ml tetrahydrofuran followed by heating the mixture at 60° until total consumption of sodium hydride. To this solution were added 40 g (0.08 mol) ditosylate of 2-(3-phenylpropyl)-1,3-propanediol dissolved in 150 ml dioxane and the resulting mixture was heated at 80° C. overnight. After work up of the reaction, ball-tube distillation afforded 38 g (79%) of tetrapentyl 2-(3-phenylpropyl)-1,3-propylidenediphosphonate.

reactant | di n-pentyl phosphite | 0.36 mol, 80 g | P(OCCCCC)(OCCCCC)[O-]
reactant | sodium hydride | 0.29 mol, 8.6 g | [H-].[Na+]
reactant | 2-(3-phenylpropyl)-1,3-propanediol | C1(=CC=CC=C1)CCCC(CO)CO | C12H18O2
solvent | tetrahydrofuran | 150 ml | O1CCCC1 | C4H8O
solvent | dioxane | 150 ml | O1CCOCC1 | C4H8O2
product | sodium dipentyl phosphite | P(OCCCCC)(OCCCCC)[O-].[Na+] | InChI=1S/C10H22O3P.Na/c1-3-5-7-9-12-14(11)13-10-8-6-4-2;/h3-10H2,1-2H3;/q-1;+1
